US07011838B2
Using 1.19 g of (4-(trifluoromethoxy)benzylidene)malononitrile, 20 ml of tetrahydrofuran, a catalytic amount of copper (I) iodide, and a solution of isopropyl magnesium bromide in tetrahydrofuran (prepared from 0.39 g of magnesium, 10 ml of tetrahydrofuran, and 2.36 g of isopropyl bromide), and according to the process described in REFERENCE PRODUCTION EXAMPLE 2, there was obtained 0.77 g of (1-(4-(trifluoromethoxy)phenyl)-2-methylpropyl)malononitrile (the intermediate (8)).

reactant | (4-(trifluoromethoxy)benzylidene)malononitrile | 1.19 g | FC(OC1=CC=C(C=C(C#N)C#N)C=C1)(F)F | C11H5F3N2O
reactant | isopropyl magnesium bromide | C(C)(C)[Mg]Br
solvent | tetrahydrofuran | 10 ml, 0.39 g | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | [Cu]I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (1-(4-(trifluoromethoxy)phenyl)-2-methylpropyl)malononitrile | 0.77 g, Yield: 55% | FC(OC1=CC=C(C=C1)C(C(C)C)C(C#N)C#N)(F)F | C14H13F3N2O
